US07956060B2
4-[2-(tert-Butyldimethylsiloxy)ethyl]pyridine-N-oxide (12.5 g, 49.3 mmol) was dissolved in dichloromethane (100 mL), then trimethylsilyl cyanide (5.31 g, 53.5 mmol) was added thereto at room temperature, and dimethylcarbamoyl chloride (5.76 g, 53.5 mmol) was added thereto over 30 minutes. Then, the mixture was stirred for 24 hours. After completion of the reaction was confirmed by thin-layer chromatography, a 10% aqueous potassium carbonate solution (150 mL) was added to the mixture, and the mixture was further stirred for 10 minutes. The reaction mixture was extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to give 4-[2-(tert-butyldimethylsiloxy)ethyl]pyridine-2-carbonitrile (12.5 g, yield 97%).

reactant | 4-[2-(tert-Butyldimethylsiloxy)ethyl]pyridine-N-oxide | 49.3 mmol, 12.5 g | O([Si](C)(C)C(C)(C)C)CCC1=CC=[N+](C=C1)[O-] | C13H23NO2Si
reactant | trimethylsilyl cyanide | 53.5 mmol, 5.31 g | C[Si](C)(C)C#N | C4H9NSi
reactant | dimethylcarbamoyl chloride | 53.5 mmol, 5.76 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | potassium carbonate | 150 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-[2-(tert-butyldimethylsiloxy)ethyl]pyridine-2-carbonitrile | 12.5 g, yield 97% | O([Si](C)(C)C(C)(C)C)CCC1=CC(=NC=C1)C#N | C14H22N2OSi
